US09062048B2
Step C: 4-(benzyloxy)-6-iodocinnoline
Into a 250 mL round-bottom flask, was placed a solution of 6-iodocinnolin-4-ol (as prepared in the previous step, 6.5 g, 23.90 mmol, 1.00 equiv) in N,N-dimethylformamide (120 mL), 1-(bromomethyl)benzene (4.4 g, 25.88 mmol, 1.10 equiv) and Cs2CO3 (5.47 g, 16.78 mmol, 0.70 equiv). The reaction mixture was stirred for 3 h at 60° C. in an oil bath. The reaction was then quenched by the addition of 50 mL of water. The resulting solution was extracted with 3×100 ml, of ethyl acetate, and the combined organic layers washed with 2×100 mL of sodium chloride, dried (Na2SO4), and concentrated under vacuum. The title compound was obtained as a yellow solid.

reactant | 6-iodocinnolin-4-ol | IC=1C=C2C(=CN=NC2=CC1)O | C8H5IN2O
reactant | 1-(bromomethyl)benzene | 25.88 mmol, 4.4 g, 1.10 equiv | BrCC1=CC=CC=C1 | C7H7Br
reactant | Cs2CO3 | 16.78 mmol, 5.47 g, 0.70 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 4-(benzyloxy)-6-iodocinnoline | C(C1=CC=CC=C1)OC1=CN=NC2=CC=C(C=C12)I | C15H11IN2O
